US04070466
c. 8-Benzoyl-2-methyl-4-phenyl-4H-pyrazolo[1,5-a]pyrazolo-[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one
0.01 mol. of 2-methyl-4-phenyl-4H-pyrazolo[1,5-a]-pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one and 0.02 mol. of benzoyl chloride are stirred overnight in 50 ml. of dry pyridine at room temperature. On addition of 50 ml. of water, 8-benzoyl-2-methyl-4-phenyl-4H-pyrazolo-[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one is filtered off.

reactant | 2-methyl-4-phenyl-4H-pyrazolo[1,5-a]-pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one | CC1=NN2C(N(C(C3=C2C2=C(N=C3)NN=C2)=O)C2=CC=CC=C2)=C1 | C17H12N6O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 8-Benzoyl-2-methyl-4-phenyl-4H-pyrazolo[1,5-a]pyrazolo-[4',3':5,6]pyrido[3,4-e]pyrimidin-5(8H)-one | C(C1=CC=CC=C1)(=O)N1N=CC2=C1N=CC=1C(N(C=3N(C12)N=C(C3)C)C3=CC=CC=C3)=O | C24H16N6O2
